US06143764
N-Allyl-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [173]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (50 mg) was dissolved in N,N-dimethylformamide (5 ml), allyl isocyanate (0.2 ml) was added, and the admixture was stirred at 80° C. for 15 hours with heat. Water was added to the reaction mixture, the admixture was extracted 2 times with ethyl acetate, and the organic layer was washed with brine and then dried with anhydrous sodium sulfate. The solvent was removed by reduced-pressure distillation and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 61 mg of the title compound (yield: 96%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 50 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | allyl isocyanate | 0.2 ml | C(C=C)N=C=O | C4H5NO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-Allyl-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 61 mg, yield: 96% | C(C=C)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C21H21N3O4
